US07053082B1
(±)-8-cyano-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-7-propionyl-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine
To 55 ml of propionyl chloride 7.06 g (19.4 millimoles) of (±)-8-cyano-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine are added at 15° C. The reaction mixture is stirred at 25° C. for 8 days and evaporated in vacuo. To the residue 200 ml of water are added. The mixture is stirred under cooling with icecold water for an hour. The precipitated crystals are filtered and washed with icecold water. The crude product obtained is recrystallized from 100 ml of acetonitrile. The crystals are filtered, washed with acetonitrile and ether and dried. Thus 6.30 g of the desired compound are obtained, yield 77%, mp.: 191–193° C.

reactant | propionyl chloride | 19.4 millimoles, 55 ml, 7.06 g | C(CC)(=O)Cl | C3H5ClO
reactant | (±)-8-cyano-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | C(#N)C1(NN=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C | C19H16N4O4
product | (±)-8-cyano-7,8-dihydro-8-methyl-5-(3-methyl-4-nitro-phenyl)-7-propionyl-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine | 6.30 g, yield 77% | C(#N)C1(N(N=C(C2=C(C1)C=C1C(=C2)OCO1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C(CC)=O)C | C22H20N4O5
